US05523404
4,5-Dichloro-6-ethylpyrimidine (one-pot process)
134.0 g (0.82 mol) of methyl 3-amino-2-chloro-2-pentenoate and 125.3 g of formamide, dissolved in 150 ml of methanol, are simultaneously added dropwise with stirring to 357.8 ml of a 30% strength sodium methylate solution in methanol at room temperature. The mixture is heated to the reflux temperature over the course of 5 h and is then left at this for 10 h. After cooling, dry HCl gas is passed through until the pH reaches 3. The solvent and the excess formamide are removed by distillation and subsequently 100 ml of toluene are added and removed by distillation twice. 145.3 ml of POCl3 are added to the mixture, which is heated at 70°-80° C. with stirring for 5 h. The excess POCl3 is then removed by distillation, the mixture is added to ice water and neutralized with K2CO3. The residue after extraction with ethyl acetate and evaporation of the solvent is distilled at 110°-112° C. under 25 mbar. Yield: 114.0 g (78.5%)

reactant | methyl 3-amino-2-chloro-2-pentenoate | 0.82 mol, 134.0 g | NC(=C(C(=O)OC)Cl)CC | C6H10ClNO2
reactant | formamide | 125.3 g | C(=O)N | CH3NO
reactant | sodium methylate | C[O-].[Na+]
reactant | HCl | Cl | ClH
solvent | methanol | 150 ml | CO | CH4O
product | 4,5-Dichloro-6-ethylpyrimidine | ClC1=NC=NC(=C1Cl)CC | C6H6Cl2N2
